US05166347
Preparation of N-cyano-N'-[2-(4-nitrophenyl)-2-nitroxyethyl]-3-pyridinecarboximidamide (method i)
Isopropyl N-cyano-3-pyridinecarboximidate (0.22 g, 1.2 mmol) was dissolved in methanol (10 ml), and 2-(4-nitrophenyl)-2-nitroxyethylamine nitrate (0.40 g, 1.4 mmol) and sodium methoxide (0.14 g, 2.6 mmol) were added. The mixture was stirred at room temperature for 17 hours. After the reaction was completed, the reaction solution was concentrated under reduced pressure. The residual concentrate was extracted with chlofororm (100 ml×3). The chloroform layer was washed with water (150 ml), dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residual concentrate was subjected to chromatography on a silica gel column (WAKO GEL C-200, 30 g) eluting with chloroform-methanol (50:1). The eluted fractions were concentrated under reduced pressure and crystallized from methanol-diethyl ether to give the title compound (0.13 g, 0.36 mmol, yield: 31%) as colorless crystals.

reactant | Isopropyl N-cyano-3-pyridinecarboximidate | 1.2 mmol, 0.22 g | C(#N)N=C(OC(C)C)C=1C=NC=CC1 | C10H11N3O
reactant | 2-(4-nitrophenyl)-2-nitroxyethylamine nitrate | 1.4 mmol, 0.40 g | [N+](=O)(O)[O-].[N+](=O)([O-])C1=CC=C(C=C1)C(CN)O[N+](=O)[O-]
reactant | sodium methoxide | 2.6 mmol, 0.14 g | C[O-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | N-cyano-N'-[2-(4-nitrophenyl)-2-nitroxyethyl]-3-pyridinecarboximidamide | 0.36 mmol, 0.13 g, yield: 31% | C(#N)NC(=NCC(O[N+](=O)[O-])C1=CC=C(C=C1)[N+](=O)[O-])C=1C=NC=CC1 | C15H12N6O5
